US09278940B2
To a mixture of (6-bromo-5-(2-((tert-butyldimethylsilyl)oxy)ethoxy)pyridin-2-yl)methanol (2.18 g, 6.0 mmol), 1-isopropylpiperazine (0.92 g, 7.2 mmol), BINAP (0.37 g, 0.6 mmol), and Cs2CO3 (3.18 g, 9.0 mmol) in nitrogen saturated toluene (40 mL) was added palladium(II) acetate (0.13 g, 0.6 mmol). The resulting mixture was heated at 100° C. for 18 h. After that time the reaction was cooled to rt, diluted with brine and extracted with ethyl acetate. The organic phase was dried over Na2SO4 and concentrated under reduced pressure. The product was purified by flash column chromatography (silica gel, 95:5 dichloromethane/methanol to 90:10 dichloromethane/methanol) to give (5-(2-((tert-butyldimethylsilyl)oxy)ethoxy)-6-(4-isopropylpiperazin-1-yl)pyridin-2-yl)methanol (1.07 g, 44%) as a sticky yellow solid: 1H NMR (400 MHz, CDCl3): δ 7.05 (d, J=7.6 Hz, 1H), 6.66 (d, J=8.0 Hz, 1H), 4.59 (s, 2H), 4.06-3.97 (m, 4H), 3.53 (br s, 4H), 2.68 (m, 5H), 1.10 (d, J=6.4 Hz, 6H), 0.90 (s, 9H), 0.09 (s, 6H).

reactant | (6-bromo-5-(2-((tert-butyldimethylsilyl)oxy)ethoxy)pyridin-2-yl)methanol | 6.0 mmol, 2.18 g | BrC1=C(C=CC(=N1)CO)OCCO[Si](C)(C)C(C)(C)C | C14H24BrNO3Si
reactant | 1-isopropylpiperazine | 7.2 mmol, 0.92 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | BINAP | 0.6 mmol, 0.37 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 9.0 mmol, 3.18 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | brine | [Cl-].[Na+].O
catalyst | palladium(II) acetate | 0.6 mmol, 0.13 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (5-(2-((tert-butyldimethylsilyl)oxy)ethoxy)-6-(4-isopropylpiperazin-1-yl)pyridin-2-yl)methanol | 1.07 g, 44% | [Si](C)(C)(C(C)(C)C)OCCOC=1C=CC(=NC1N1CCN(CC1)C(C)C)CO | C21H39N3O3Si
